US05783572
1,4-Dihydro-6,7-dichloro-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-ylmethyl]quinoxalin-2,3-dione
A mixture of 6,7-dichloro-2,3-dimethoxy-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-ylmethyl]quinoxaline (Preparation 24, 110 mg, 0.25 mmol), 2M hydrochloric acid (10 mL) and dioxane (10 mL) was heated at reflux for 5.5 hours. The mixture was concentrated under reduced pressure, diluted with acetone (10 mL) and filtered. The solid was dried under vacuum to give the title compound as an off-white solid (97 mg, 94%), mp 282° C. Found: C, 45.57; H, 4.00; N, 17.67. C18H16Cl2N6 O2. HCl.H2O requires C, 45.64; H, 4.04; N, 17.74%.

reactant | 6,7-dichloro-2,3-dimethoxy-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-ylmethyl]quinoxaline | 0.25 mmol, 110 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=NC2=C1C=CC(=C2)CN(C)C | C20H20Cl2N6O2
reactant | hydrochloric acid | 2M, 10 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1,4-Dihydro-6,7-dichloro-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-ylmethyl]quinoxalin-2,3-dione | 97 mg, 94% | ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)CN1N=NC2=C1C=CC(=C2)CN(C)C | C18H16Cl2N6O2
